US07335660B2
a) N-[(1S)-1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]-3-chloro-1-propanesulfonamide
To a stirred solution of (1S)-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-amine (0.15 g, 0.49 mmol) in ethyl acetate (18 mL), cooled to 0° C., was added triethylamine (0.274 mL, 1.37 mmol) then 3-chloro-1-propanesulfonyl chloride (0.070 mL, 0.576 mmol), and the reaction mixture allowed to warm to room temperature. After stirring for 1 h, the reaction was basified with 1N sodium hydroxide (2.5 mL), and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried (MgSO4), filtered and evaporated in vacuo to yield the title compound as an oil. This crude product was used in the next step without further purification.

reactant | (1S)-1-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-amine | 0.49 mmol, 0.15 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)N | C17H29NO2Si
reactant | triethylamine | 1.37 mmol, 0.274 mL | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-1-propanesulfonyl chloride | 0.576 mmol, 0.070 mL | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | sodium hydroxide | 1N, 2.5 mL | [OH-].[Na+]
solvent | ethyl acetate | 18 mL | C(C)(=O)OCC | C4H8O2
product | N-[(1S)-1-(2-{[tert-Butyl(dimethyl)silyl]oxy}ethyl)-3,4-dihydro-1H-2-benzopyran-6-yl]-3-chloro-1-propanesulfonamide | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1OCCC2=C1C=CC(=C2)NS(=O)(=O)CCCCl | C20H34ClNO4SSi
